US08703807B2
Step 3: 1,4-Dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one
To a stirred solution of 8-cyanomethyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester (12 g, 47.3 mmol) in a mixture of NH3-EtOH (200 ml, 7:93) was added Raney-Ni (4.16 g, 70.95 mmol) under nitrogen atmosphere at 25° C. The reaction mixture was then hydrogenated at 40° C. in an autoclave under 400 psi H2 pressure for 16 h. After the completion of reaction, the mixture was filtered through a bed of celite, and the filtrate was evaporated under reduced pressure. The crude material thus obtained (10 g, 38.9 mmol) was dissolved in dry toluene (100 ml) and to the stirred solution was added Et3N (10 ml, 71.14 mmol) under a nitrogen atmosphere at 25° C. The mixture was then heated under reflux for 24 h. After the completion of reaction, it was cooled to 25° C., the precipitated white solid was filtered, washed with hexane (3×50 ml), dried under vacuum to give the title compound (7.3 g) as a white solid. MS (m/e): 212.2 [MH+].

reactant | 8-cyanomethyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester | 47.3 mmol, 12 g | C(C)OC(=O)C1(CCC2(OCCO2)CC1)CC#N | C13H19NO4
reactant | Et3N | 71.14 mmol, 10 ml | CCN(CC)CC | C6H15N
solvent | NH3 EtOH | 200 ml | N.CCO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Ni | 70.95 mmol, 4.16 g | [Ni] | Ni
product | 1,4-Dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one | 7.3 g | O1CCOC12CCC1(C(NCC1)=O)CC2 | C11H17NO3
